US07405235B2
6-(2-Amino-phenyl)-3-thioxo-3,4-dihydro-2H-[1,2,4]triazin-5-one
This was prepared by a modified literature procedure (Doleschall, G.; Lempert, K. Tetrahedron 1973, 29, 639-649). Isatin (10 g, 67.96 mmol) was dissolved in ca. 10% aqueous KOH (9.9 g in 100 mL of water) and then treated with thiosemicarbazide (6.28 g; 68.90 mmol). After 1 hour of heating at 115° C. (bath temperature), the reaction mixture was poured over ice and treated with glacial acetic acid drop-wise, till the pH was ca. 5. The yellow fluffy precipitate was filtered, washed copiously with water (8×50 mL) and dried first in air and then under high vacuum to afford 12.9 g of yellow solid.

reactant | Isatin | 67.96 mmol, 10 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | thiosemicarbazide | 68.90 mmol, 6.28 g | NNC(=S)N | CH5N3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | KOH | 100 mL, 9.9 g | [OH-].[K+]
product | 6-(2-Amino-phenyl)-3-thioxo-3,4-dihydro-2H-[1,2,4]triazin-5-one | 12.9 g | NC1=C(C=CC=C1)C=1C(NC(NN1)=S)=O | C9H8N4OS
